US09371320B2
D) (2E)-3-(4-bromo-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-pyrrol-2-yl)acryloyl azide
To a solution of (2E)-3-(4-bromo-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-pyrrol-2-yl)acrylic acid (4.5 g) in DMF (40 mL) was added a solution of triethylamine (2.0 mL) and diphenylphosphoryl azide (3.75 g) in DMF (5 mL) at 0° C., and the mixture was stirred at room temperature for 4 hr. The reaction mixture was added to water, and the mixture was extracted with ethyl acetate. The organic layer was washed with water and saturated brine, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (ethyl acetate/hexane) to give the title compound (4.56 g).

reactant | (2E)-3-(4-bromo-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-pyrrol-2-yl)acrylic acid | 4.5 g | BrC=1C=C(N(C1)COCC[Si](C)(C)C)/C=C/C(=O)O | C13H20BrNO3Si
reactant | triethylamine | 2.0 mL | C(C)N(CC)CC | C6H15N
reactant | diphenylphosphoryl azide | 3.75 g | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
reactant | water | O | H2O
solvent | DMF | 40 mL | CN(C)C=O | C3H7NO
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | (2E)-3-(4-bromo-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-pyrrol-2-yl)acryloyl azide | 4.56 g | BrC=1C=C(N(C1)COCC[Si](C)(C)C)/C=C/C(=O)N=[N+]=[N-] | C13H19BrN4O2Si
